US07576099B2
Methyl 4-(cyclopentylethynyl)-2-methylbenzoate
Methyl 4-bromo-2-methylbenzoate (1.0 g, 4.4 mmol) was dissolved in triethylamine (5 mL). To the mixture was added copper iodide (43 mg, 5 mol %), followed by PdCl2(PPh3)2 (157 mg, 5 mol %) and ethynylcyclopentane (0.75 mL, 5.3 mmol). The mixture was heated in a sealed pressure tube at 80° C. for 3 hours. After completion of the reaction, the triethylamine was evaporated and the residue was dissolved in EtOAc and filtered through Celite®. The organic layer was washed with water, brine, and dried (Na2SO4), then filtered and concentrated under vacuum. The residue was purified by column chromatography on sililca gel using EtOAc-hexane (0-100% gradient) as eluet to give the desired product.

reactant | Methyl 4-bromo-2-methylbenzoate | 4.4 mmol, 1.0 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | ethynylcyclopentane | 5.3 mmol, 0.75 mL | C(#C)C1CCCC1 | C7H10
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 43 mg | [Cu](I)I
catalyst | PdCl2(PPh3)2 | 157 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-(cyclopentylethynyl)-2-methylbenzoate | C1(CCCC1)C#CC1=CC(=C(C(=O)OC)C=C1)C | C16H18O2
